US08278457B2
Step 1. Synthesis of trans-2-(4-bromo-3-fluorophenoxy)cyclopentanol
4-Bromo-3-fluorophenol (8.00 g, 41.9 mmol) and 6-oxabicyclo[3.1.0]hexane (8.25 mL, 95.2 mmol) were combined in butyronitrile (5.0 mL) and treated with sodium carbonate (4.04 g, 38.1 mmol). The reaction was subjected to microwave irradiation for 2 hours at 175° C., then filtered through Celite®. The filter cake was washed with ethyl acetate, then dichloromethane, and the combined filtrates were concentrated under reduced pressure to provide product as a dark brown oil. This material was used without additional purification. Yield: 11.59 g, >41.9 mmol, assumed quantitative. 1H NMR (400 MHz, CDCl3) δ 1.61-1.89 (m, 5H), 2.02-2.24 (m, 2H), 4.30 (m, 1H), 4.46 (m, 1H), 6.63 (ddd, J=8.9, 2.8, 1.1 Hz, 1H), 6.73 (dd, J=10.5, 2.8 Hz, 1H), 7.40 (dd, J=8.9, 8.0 Hz, 1H).

reactant | 4-Bromo-3-fluorophenol | 41.9 mmol, 8.00 g | BrC1=C(C=C(C=C1)O)F | C6H4BrFO
reactant | 6-oxabicyclo[3.1.0]hexane | 95.2 mmol, 8.25 mL | C12CCCC2O1 | C5H8O
reactant | sodium carbonate | 38.1 mmol, 4.04 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | butyronitrile | 5.0 mL | C(CCC)#N | C4H7N
product | trans-2-(4-bromo-3-fluorophenoxy)cyclopentanol | BrC1=C(C=C(O[C@H]2[C@@H](CCC2)O)C=C1)F | C11H12BrFO2
